US06153768
Synthesis of 2-hydroxy-2-(4-methoxyphenyl)propionic acid
Methyl iodide (55 ml, 880 mmol) was slowly added to a solution of magnesium (23 g) in diethyl ether (500 ml) at -20° C. and then stirred for 3 hours at room temperature. To the resulting suspension was slowly added dropwise 4-methoxyphenylglyoxylic acid (34.6 g, 192 mmol), as prepared in Example 21, dissolved in dry tetrahydrofuran (100 ml) at 0° C., and the reaction mixture was stirred for about 12 hours at room temperature. After adding cooling water, the reaction solution was extracted with ethyl acetate and the organic layer was washed with water and saturated sodium thiosulfate solution and dried over anhydrous magnesium sulfate. The residue was concentrated under reduced pressure to remove the organic solvent to obtain 35 g (yield: 93%) of the title compound as a yellow solid.

reactant | Methyl iodide | 880 mmol, 55 ml | CI | CH3I
reactant | magnesium | 23 g | [Mg] | Mg
reactant | 4-methoxyphenylglyoxylic acid | 192 mmol, 34.6 g | COC1=CC=C(C=C1)C(C(=O)O)=O | C9H8O4
reactant | water | O | H2O
solvent | diethyl ether | 500 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-hydroxy-2-(4-methoxyphenyl)propionic acid | 35 g, yield: 93% | OC(C(=O)O)(C)C1=CC=C(C=C1)OC | C10H12O4
